US07507747B2
3-(2-Benzyl-2-hydroxy-3-phenyl-propylidene)-8,8-dimethyl-8-azonia-bicyclo[3.2.1]octane iodide
The title compound was prepared from 2-benzyl-1-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-3-phenyl-propan-2-ol and methyliodide by following the experimental procedures in Example 4 (85% yield): LCMS (ES) m/z 346 (M+H)+; 1H-NMR(CDCl3) δ 0.80 (m, 1H), 1.48 (m, 1H), 1.84 (m, 1H), 1.99 (m, 1H), 2.09 (m, 2H), 2.87 (m, 1H), 2.95 (m, 5H), 3.16 (s, 3H), 3.26 (s, 3H), 4.16 (m, 1H), 4.18 (m, 1H), 5.42 (s, 1H), 7.26 (m, 10H).

reactant | 2-benzyl-1-(8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-3-phenyl-propan-2-ol | C(C1=CC=CC=C1)C(C=C1CC2CCC(C1)N2C)(CC2=CC=CC=C2)O | C24H29NO
reactant | methyliodide | CI | CH3I
product | 3-(2-Benzyl-2-hydroxy-3-phenyl-propylidene)-8,8-dimethyl-8-azonia-bicyclo[3.2.1]octane iodide | [I-].C(C1=CC=CC=C1)C(C=C1CC2CCC(C1)[N+]2(C)C)(CC2=CC=CC=C2)O | InChI=1S/C25H32NO.HI/c1-26(2)23-13-14-24(26)16-22(15-23)19-25(27,17-20-9-5-3-6-10-20)18-21-11-7-4-8-12-21;/h3-12,19,23-24,27H,13-18H2,1-2H3;1H/q+1;/p-1
